US07915424B2
3-(5-Aminopyridin-3-ylethynyl)-benzonitrile
Add trifluoroacetic acid (1 mL, 13.3 mmol) to a solution of [5-(3-cyanophenylethynyl)-pyridin-3-yl]-carbamic acid tert-butyl ester, prepared as described in EXAMPLE 125), (315 mg, 0.99 mmol) in dichloromethane (5 mL) and stir for 4 h. Add solid potassium carbonate to the reaction mixture until basic (pH=8) and then water to give a biphasic solution. Separate the layers, load the aqueous layer onto an ISOLUTE™ phase separator cartridge and wash the cartridge with dichloromethane (3×15 mL). Concentrate and purify the residue by silica gel chromatography, eluting with 25:75 to 0:100 with dichloromethane:ethyl acetate, to give the title compound (190 mg, 88%).

reactant | trifluoroacetic acid | 13.3 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [5-(3-cyanophenylethynyl)-pyridin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=NC=C(C1)C#CC1=CC(=CC=C1)C#N)=O | C19H17N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(5-Aminopyridin-3-ylethynyl)-benzonitrile | 190 mg, 88% | NC=1C=C(C=NC1)C#CC=1C=C(C#N)C=CC1 | C14H9N3
